US04328223
10.3 g (0.05 mol) of 2-chloro-3a,4,5,6-tetrahydroperimidine are introduced into 15 ml of aniline, whilst stirring. After the strongly exothermic reaction has subsided (temperature rises to 90° C.), water is added to the mixture and the crystals which have precipitated are isolated by filtration and washed several times with dilute aqueous ammonia solution. 2-Phenylamino-3a,4,5,6-tetrahydro-perimidine is obtained. Yield: 9.5 g (72% of theory) of melting point 233°-235° C.

reactant | 2-chloro-3a,4,5,6-tetrahydroperimidine | 0.05 mol, 10.3 g | ClC=1NC=2C=CC=C3CCCC(N1)C23 | C11H11ClN2
reactant | aniline | 15 ml | NC1=CC=CC=C1 | C6H7N
solvent | water | O | H2O
product | 2-Phenylamino-3a,4,5,6-tetrahydro-perimidine | C1(=CC=CC=C1)NC=1NC=2C=CC=C3CCCC(N1)C23 | C17H17N3
